US03979513
2-Methoxy-6-(3'-trifluoromethylbenzyl)benzoic acid (3.1 g.) is added in small portions with stirring to polyphosphoric acid (60 ml.) at 90°-95°C., the reaction mixture is stirred for 30 minutes at this temperature and then allowed to cool. Excess 8N ammonium hydroxide solution is added and the solution is stirred for 15 minutes and then extracted with ether. The ether layer is washed with water and with brine, and evaporated to give 1-methoxy-6-trifluoromethylanthrol, m.p. 102°-110°C., which is used without further purification.

reactant | 2-Methoxy-6-(3'-trifluoromethylbenzyl)benzoic acid | 3.1 g | COC1=C(C(=O)O)C(=CC=C1)CC1=CC(=CC=C1)C(F)(F)F | C16H13F3O3
reactant | ammonium hydroxide | 8N | [OH-].[NH4+]
product | 1-methoxy-6-trifluoromethylanthrol | COC1(CC=CC2=CC3=CC(=CC=C3C=C12)C(F)(F)F)O | C16H13F3O2
